US07772253B2
6-Dimethylamino-5-methyl-nicotinic acid
The above prepared 6-dimethylamino-5-methyl-nicotinonitrile (0.435 g, 2.70 mmol) was dissolved in 13.6 ml of THF/ethanol=1/1 and treated with 6.75 ml of 2N NaOH (5 eq.). The mixture was refluxed for 30 h; aliquots were taken from time to time and analyzed by MS to follow the disappearance of the amide intermediate. After cooling down to room temperature, the pH was adjusted with HCl to 3. Careful evaporation of the solvents and drying under HV left 1.45 g of the title acid as white solid, contaminated with NaCl, which was used as such for the next step.

reactant | 6-dimethylamino-5-methyl-nicotinonitrile | 2.70 mmol, 0.435 g | CN(C1=NC=C(C#N)C=C1C)C | C9H11N3
reactant | NaOH | 2N, 6.75 ml, 5 eq. | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | THF ethanol | 13.6 ml | C1CCOC1.C(C)O
product | 6-Dimethylamino-5-methyl-nicotinic acid | CN(C1=NC=C(C(=O)O)C=C1C)C | C9H12N2O2
